US05641772
5,11-Dihydro-11-[[4-[3-[(2,2-dimethyl-1-oxobutyl)-ethylamino]-propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
1.48 g (0.01 mol) of 2,2-dimethylbutyric acid chloride dissolved in 20 ml of tetrahydrofuran are added dropwise, with stirring, at ambient temperature, to a solution of 4.2 g (0.01 mol) of 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one and 2 ml of triethylamine in 150 ml of tetrahydrofuran. In order to complete the reaction the solution is stirred for a further hour at 50° C. After cooling, the precipitated triethylamine hydrochloride is filtered off and the filtrate is evaporated to dryness using a rotary evaporator in a water jet vacuum. In order to purify it the residue is dissolved in ethyl acetate. The ethyl acetate solution is extracted twice with 10% hydrochloric acid, the organic phase is separated off and the aqueous phase is made alkaline by the addition of concentrated ammonia. Then the aqueous phase is extracted twice with ethyl acetate. The organic phase is dried over sodium sulphate and evaporated to dryness in vacuo. The residue obtained is crystallised by digesting it in ethyl acetate. Colourless crystals are obtained of m.p. 136°-138° C.

reactant | 2,2-dimethylbutyric acid chloride | 0.01 mol, 1.48 g | CC(C(=O)Cl)(CC)C | C6H11ClO
reactant | 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | 0.01 mol, 4.2 g | C(C)NCCCC1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H31N5O2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5,11-Dihydro-11-[[4-[3-[(2,2-dimethyl-1-oxobutyl)-ethylamino]-propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | CC(C(=O)N(CCCC1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC)(CC)C | C30H41N5O3
